* Z:\mnt\design.r\spice\examples\3401.asc
L1 IN N001 4.7µ Rpar=5K
R1 N006 0 15K
R2 N004 N003 40.2K
C1 N003 0 470p
C2 N004 0 20p
R3 OUT N005 909K
R4 N005 0 549K
V1 IN 0 1.2
C3 OUT 0 22µ Rser=.1
R5 IN N002 5K
XU1 N006 0 IN N001 0 N002 OUT N005 N004 IN LTC3401
Rload OUT 0 20
.tran 750u startup
.lib LTC3401.sub
.backanno
.end
